data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:3][CH:16]([CH3:4])[N+:28]1=[N:31][N:27]([CH:8]([CH3:34])[CH3:35])[C:36](=[CH2:26])[C-:10]1[C:12]([CH3:38])([CH3:39])[CH3:40].[O:1]=[S:37](=[O:2])([c:19]1[cH:6][cH:14][c:23]([CH3:41])[cH:15][cH:7]1)[n:24]1[cH:18][c:21]([N+:20](=[O:9])[O-:11])[c:22]2[cH:13][cH:29][c:17]([N+:33](=[O:30])[O-:32])[cH:5][c:25]21>>[O:1]=[S:37](=[O:2])([c:19]1[cH:6][cH:14][c:23]([CH3:41])[cH:15][cH:7]1)[N:24]1[CH:18]([CH2:26][c:36]2[c:10]([C:12]([CH3:38])([CH3:39])[CH3:40])[n+:28]([CH:16]([CH3:3])[CH3:4])[n:31][n:27]2[CH:8]([CH3:34])[CH3:35])[C:21](=[N+:20]([O-:9])[O-:11])[c:22]2[cH:13][cH:29][c:17]([N+:33](=[O:30])[O-:32])[cH:5][c:25]21", "epd": [["LP-/Pi+", [10], [36, 10]], ["Pi-/Sigma+", [26, 36], [26, 18]], ["Pi-/Pi+", [18, 21], [21, 20]], ["Pi-/LP+", [20, 9], [9]]]}
{"reaction_name": "Vinyl sulfone substitution", "rsmi": "[O-:4][CH3:6].[O:1]=[S:3](=[O:2])([C:5]([Cl:7])=[CH2:9])[CH3:8]>>[Cl-:7].[O:1]=[S:3](=[O:2])([C:5]([O:4][CH3:6])=[CH2:9])[CH3:8]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Sigma-/LP+", [5, 7], [7]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:2]1([Cl:17])=[C:3]([Cl:18])[C:6](=[O:8])[C:13]([C:19]#[N:21])=[C:14]([C:20]#[N:22])[C:5]1=[O:7].[O-:1][c:4]1[cH:15][cH:10][c:12]([CH3:9])[cH:11][cH:16]1>>[O:1]([c:4]1[cH:15][cH:10][c:12]([CH3:9])[cH:11][cH:16]1)[C:13]1([C:19]#[N:21])[C:6](=[O:8])[C:3]([Cl:18])=[C:2]([Cl:17])[C:5]([O-:7])=[C:14]1[C:20]#[N:22]", "epd": [["LP-/Sigma+", [1], [1, 13]], ["Pi-/Pi+", [13, 14], [14, 5]], ["Pi-/LP+", [5, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:14](=[O+:32][CH3:31])[c:34]1[cH:28][cH:26][cH:18][cH:27][cH:29]1.[c:1]1([P:15]([c:2]2[cH:9][cH:22][cH:5][cH:23][cH:10]2)([c:3]2[cH:11][cH:24][cH:6][cH:25][cH:12]2)=[CH:30][C:19]([O:16][CH2:13][CH3:33])=[O:17])[cH:7][cH:20][cH:4][cH:21][cH:8]1>>[c:1]1([P+:15]([c:2]2[cH:9][cH:22][cH:5][cH:23][cH:10]2)([c:3]2[cH:11][cH:24][cH:6][cH:25][cH:12]2)[CH:30]([CH:14]([O:32][CH3:31])[c:34]2[cH:28][cH:26][cH:18][cH:27][cH:29]2)[C:19]([O:16][CH2:13][CH3:33])=[O:17])[cH:7][cH:20][cH:4][cH:21][cH:8]1", "epd": [["Pi-/Sigma+", [30, 15], [30, 14]], ["Pi-/LP+", [14, 32], [32]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[C:2]([CH3:3])([CH3:4])=[CH:6][CH:12]=[CH2:11].[CH:1](=[O+:14][CH3:13])[c:15]1[cH:9][cH:7][cH:5][cH:8][cH:10]1>>[CH:1]([CH2:11][CH:12]=[CH:6][C+:2]([CH3:3])[CH3:4])([O:14][CH3:13])[c:15]1[cH:9][cH:7][cH:5][cH:8][cH:10]1", "epd": [["Pi-/Pi+", [6, 2], [12, 6]], ["Pi-/Sigma+", [11, 12], [11, 1]], ["Pi-/LP+", [1, 14], [14]]]}
{"reaction_name": "Allylic solvolysis", "rsmi": "[CH2:1]=[CH:5][CH2:4][Cl:2].[OH:3][H:6]>>[CH2:1]=[CH:5][CH2:4][OH:3].[Cl:2][H:6]", "epd": [["Sigma-/LP+", [2, 4], [2]], ["LP-/Sigma+", [3], [3, 4]], ["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [3, 6], [3]]]}
{"reaction_name": "Iminium allylation", "rsmi": "[CH2:1]([Si:6]([CH3:7])([CH3:8])[CH3:9])[CH:12]=[CH2:11].[CH:2]([CH3:3])=[N+:10]([CH3:4])[CH3:5]>>[CH2:1]([CH:2]([CH3:3])[N:10]([CH3:4])[CH3:5])[CH:12]=[CH2:11].[Si+:6]([CH3:7])([CH3:8])[CH3:9]", "epd": [["Sigma-/Sigma+", [1, 6], [1, 2]], ["Pi-/LP+", [2, 10], [10]]]}
{"reaction_name": "Ferrier glycosylation", "rsmi": "[CH:1]1=[CH:10][CH2:3][CH:9]([O:5][C:8]([CH3:6])=[O:7])[O:2][CH2:12]1.[O:4]([CH3:11])[H:13]>>[CH:1]1=[CH:10][CH2:3][CH:9]([O:4][CH3:11])[O:2][CH2:12]1.[O:5]([H:13])[C:8]([CH3:6])=[O:7]", "epd": [["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [5, 9], [5]], ["LP-/Sigma+", [5], [5, 13]], ["Sigma-/LP+", [4, 13], [4]]]}
{"reaction_name": "Sulfurane ligand exchange", "rsmi": "[O-:3][CH3:8].[S:1]([Cl:2])([F:4])([F:5])([F:6])[F:7]>>[Cl-:2].[S:1]([O:3][CH3:8])([F:4])([F:5])([F:6])[F:7]", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 2], [2]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[CH2:6]1[N:15]2[CH2:7][CH2:19][N:9]([CH2:42][c:12]3[cH:21][cH:25][cH:32][cH:26][cH:22]3)[c:29]3[c:13]2[c:28]([cH:16][n:14][cH:17]3)[N:8]([CH2:41][c:11]2[cH:20][cH:24][cH:31][cH:27][cH:23]2)[CH2:18]1.[n+:1]1([CH3:30])[c:2]2[cH:33][cH:37][cH:35][cH:4][c:39]2[cH:10][c:40]2[c:3]1[cH:34][cH:38][cH:36][cH:5]2>>[N:1]1([CH3:30])[c:2]2[cH:33][cH:37][cH:35][cH:4][c:39]2[CH:10]([N:14]2[CH:16]=[C:28]3[N:8]([CH2:41][c:11]4[cH:20][cH:24][cH:31][cH:27][cH:23]4)[CH2:18][CH2:6][N+:15]4=[C:13]3[C:29](=[CH:17]2)[N:9]([CH2:42][c:12]2[cH:21][cH:25][cH:32][cH:26][cH:22]2)[CH2:19][CH2:7]4)[c:40]2[c:3]1[cH:34][cH:38][cH:36][cH:5]2", "epd": [["LP-/Pi+", [15], [13, 15]], ["Pi-/Pi+", [28, 13], [16, 28]], ["Pi-/Sigma+", [14, 16], [14, 10]], ["Pi-/Pi+", [10, 39], [39, 2]], ["Pi-/LP+", [2, 1], [1]]]}
